US05158922
This example demonstrates the preparation of a double metal cyanide complex catalyst using the process of this invention. A solution of zinc chloride (26.65 g; 0.1956 mole) in water (26.65 g) was added rapidly to a well-agitated solution of potassium hexacyanocobaltate (13.00 g, 0.0391 mole) in water (263.35 g). The potassium hexacyanocobaltate solution was maintained at 40° C. during addition of the zinc chloride solution. A colorless precipitate of zinc hexacyanocobaltate particles formed immediately upon addition. After stirring for 15 minutes at 40° C., dimethoxyethane (84.00 g; 0.9321 mole) was added to the aqueous catalyst slurry. The resulting mixture was stirred for an additional 30 minutes and the zinc hexacyanocobaltate zinc chloride.dimethoxyethane.water complex catalyst recovered by filtration using a horizontal basket centrifugal filter and a light weight nylon fabric filter medium. The filtration rate was relatively fast with minimal clogging of the pores of the filter medium. After washing with 300 mL dimethoxyethane and drying in air at ambient temperature and pressure, the filter cake obtained was quite soft and could be easily crushed to a fine powder.

reactant | zinc chloride | 0.1956 mole, 26.65 g | [Cl-].[Zn+2].[Cl-]
reactant | potassium hexacyanocobaltate | 0.0391 mole, 13.00 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[Co]
solvent | water | 26.65 g | O | H2O
solvent | water | 263.35 g | O | H2O
product | zinc hexacyanocobaltate | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[Co+3].[Co+3].[Zn+2].[Zn+2].[Zn+2] | InChI=1S/12CN.2Co.3Zn/c12*1-2;;;;;/q12*-1;2*+3;3*+2
